US04401821
(b) 2-Benzoyl-3-methylamino-2-butenoic acid methyl ester
193.5 g (1.5 moles) of methyl methylaminocrotonate is dissolved in 450 ml of toluene, and 166.7 g (1.65 moles) of triethylamine is added; while cooling at 0° to 5° C., 211 g (1.5 moles) (=174 ml) of benzoyl chloride is then dripped into this mixture. After the mixture has been stirred for 12 hours at 25° C., the precipitated triethylamine hydrochloride is filtered off and the toluene solution is extracted with water. After the toluene phase has been dried with Na2SO4, the residue is evaporated under reduced pressure and the solid which is obtained is recrystallized from a 4:1 mixture of ligroin and toluene. There is obtained 217 g (62%) of a white solid; m.p.: 75°-77° C.

reactant | methyl methylaminocrotonate | 1.5 moles, 193.5 g | CN/C(/C(=O)OC)=C\C | C6H11NO2
reactant | triethylamine | 1.65 moles, 166.7 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.5 moles, 174 ml, 211 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Benzoyl-3-methylamino-2-butenoic acid methyl ester | 217 g, 62% | COC(C(=C(C)NC)C(C1=CC=CC=C1)=O)=O | C13H15NO3
